* define the simulator language
simulator lang=spectre
*command to run the script below
*spectre 459_lab0.scs +log 459_lab0.log
*functionality of this code
*simple inverter

*Include the library for target technology, here is 45 nm.
*You need to find this directory by yourself.
include "YOUR_GPDK_LIBRARY.scs" section=tt

*below is use the parameterization of the circuit script
parameters w_p=600n w_n=300n l_p=100n l_n=100n
parameters vdd=1.1 vs0=0 vs1=0 vs2=0
*Identify the power supply and ground for this entire circuit script
global 0 vdd!
*transistor name drain gate source body modulename W L
mp0 (inv_out0 inv_in0 vdd! vdd!)	g45p1svt w=w_p l=l_p 
mn0 (inv_out0 inv_in0 0 0) 		g45n1svt w=w_n l=l_n

*Using subckt to define a CMOS logic gate. It is highly recommend to only use it once the internal structure is complicated and you do not want to change any parameters within this sub circuit/macro.
subckt invs_subckt inv_out inv_in
   mp1 (inv_out inv_in vdd! vdd!) g45p1svt w=w_p l=l_p 
   mn1 (inv_out inv_in 0 0) g45n1svt w=w_n l=l_n
ends invs_subckt
*Instantialize the subcircuit.
inv_1 (inv_out1 inv_in1) invs_subckt
*this line indicate the power supply.
vdd_s (vdd! 0) vsource dc=vdd type=dc 

*Define the voltage source of inverter input 
v0 (inv_in0 0) vsource dc=vs0
*define the dc analysis as dc_analy0
dc_analy0 dc param=vs0 start=0 stop=vdd step=0.01
*Define the voltage source of inverter input 
v1 (inv_in1 0) vsource dc=vs1
*define the dc analysis as dc_analy1
dc_analy1 dc param=vs1 start=vdd/2 stop=vdd step=0.01
*save the ids of mn0 within the subcircuit, ids is one of the transistor interior parameters/measurements.
save inv_0.mn1:ids 
*Or we just save everything 
save inv_0.mp1:all
*Or we just save everything 
save mp0:all
*Instantiate another inverter using sub circuit
inv_2 (inv_out2 inv_in2) invs_subckt
*Define a pulse wave with corrsponding initial value and period, rising time and fall time, pulse wave width.
v1 (inv_in2 0) vsource dc=vs2 type=pulse val0=0 val1=vdd period=10u rise=5p fall=5p width=5u 
*Define the starting time and end time of transient analysis.
trans1 tran stop=50u method =trap 

* this line indicate the simulation temperature
simOptions options temp=25

* these lines indicatae saving some information within the log file.
outputInfo info what=output where=logfile 
element info what=inst where=logfile